US07576215B2
3-BENZYL-4-(3-PHENYLETHYNYL-PHENYL)-8-TRIFLUOROMETHYL-QUINOLINE
A solution of 3-benzyl-4-(3-ethynyl-phenyl)-8-trifluoromethyl-quinoline (80 mg, 0.2 mmol), iodobenzene 84 mg, 0.4 mmol), piperidine (80 mg, 0.9 mmol) in toluene (2.0 mL) is treated with Pd(Cl)2(PPh3)2 (8.0 mg) and heated at 90° C. for 3 h. The reaction is then cooled and concentrated in vacuo. The residue is taken up in ethyl acetate and washed with 10 mL (1N HCl). The organic layer is dried and concentrated in vacuo to provide after chromatography 72 mg (75%) of the title compound. MS (ES) m/z 464.1.

reactant | 3-benzyl-4-(3-ethynyl-phenyl)-8-trifluoromethyl-quinoline | 0.2 mmol, 80 mg | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C1=CC(=CC=C1)C#C)C(F)(F)F | C25H16F3N
reactant | iodobenzene | 0.4 mmol, 84 mg | IC1=CC=CC=C1 | C6H5I
reactant | piperidine | 0.9 mmol, 80 mg | N1CCCCC1 | C5H11N
solvent | toluene | 2.0 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(Cl)2(PPh3)2 | 8.0 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-BENZYL-4-(3-PHENYLETHYNYL-PHENYL)-8-TRIFLUOROMETHYL-QUINOLINE | 72 mg, 75% | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C1=CC(=CC=C1)C#CC1=CC=CC=C1)C(F)(F)F | C31H20F3N
